US07135475B2
This compound was prepared by a method similar to that of Müller et al. as described in Synthesis 1995, 1295. The method used was similar to that used in scheme 1 for the preparation of 3-allyl-5,6-diamino-1-butyl-1H-pyrimidine-2,4-dione except that 6-amino-3-benzyl-5-nitroso-1H-pyrimidine-2,4-dione was used as the substrate for the reaction in place of 3-allyl-6-amino-1-butyl-5-nitroso-1H-pyrimidine-2,4-dione and concentration was continued only until a solid precipitate was observed. This mixture was then cooled overnight at 0° C. and the solids isolated by filtration under an atmosphere of nitrogen to give 3-benzyl-5,6-diamino-1H-pyrimidine-2,4-dione.

reactant | 3-allyl-5,6-diamino-1-butyl-1H-pyrimidine-2,4-dione | C(C=C)N1C(N(C(=C(C1=O)N)N)CCCC)=O | C11H18N4O2
reactant | 6-amino-3-benzyl-5-nitroso-1H-pyrimidine-2,4-dione | NC1=C(C(N(C(N1)=O)CC1=CC=CC=C1)=O)N=O | C11H10N4O3
reactant | 3-allyl-6-amino-1-butyl-5-nitroso-1H-pyrimidine-2,4-dione | C(C=C)N1C(N(C(=C(C1=O)N=O)N)CCCC)=O | C11H16N4O3
product | 3-benzyl-5,6-diamino-1H-pyrimidine-2,4-dione | C(C1=CC=CC=C1)N1C(NC(=C(C1=O)N)N)=O | C11H12N4O2
